US07030138B2
Ethyl 5-nitrosalicylate
To a solution of 5-nitrosalicylic acid (10.8 g) in ethanol (100 ml) was added concentrated sulfuric acid (92.0 g) with stirring at room temperature, and the resulting mixture was refluxed for 7.5 hours. After cooling to room temperature, the reaction mixture was neutralized with an aqueous sodium hydroxide solution and extracted with ethyl acetate. The extract was washed successively with a saturated aqueous sodium hydrogencarbonate solution, 0.5N hydrochloric acid and a saturated aqueous sodium chloride solution. The organic layer was dried over anhydrous magnesium sulfate and evaporated in vacuo to afford the title compound (10.7 g, yield: 85%) as a pale yellow solid.

reactant | 5-nitrosalicylic acid | 10.8 g | [N+](=O)([O-])C1=CC=C(C(C(=O)O)=C1)O | C7H5NO5
reactant | sulfuric acid | 92.0 g | S(O)(O)(=O)=O | H2O4S
reactant | sodium hydroxide | [OH-].[Na+]
reactant | ethanol | 100 ml | C(C)O | C2H6O
product | Ethyl 5-nitrosalicylate | 10.7 g, yield: 85% | [N+](=O)([O-])C1=CC=C(C(C(=O)OCC)=C1)O | C9H9NO5
